US04638000
In a mixture of 40 ml of methanol and 25 ml of 1N aqueous sodium hydroxide solution is dissolved 0.6 g of tert-butyl 3(R)-[5-tert-butoxycarbonylamino-1(S)-ethoxycarbonylpentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate as obtaiend in Example 37, and 10 ml of water is further added to the solution, followed by stirring at room temperature for 2 hours. The methanol is evaporated off under reduced pressure, and the residual solution is made weakly acidified with phosphoric acid and extracted with ethyl acetate. The extract is dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 0.37 g of tert-butyl 3(R)-[5-tert-butoxycarbonylamino-1(S)-carboxypentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate as a colorless viscous material. This product is treated with ethyl acetate to yield a colorless crystalline powder, melting at 134°-135° C.

reactant | tert-butyl 3(R)-[5-tert-butoxycarbonylamino-1(S)-ethoxycarbonylpentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.6 g | C(C)(C)(C)OC(=O)NCCCC[C@@H](C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C28H43N3O7S
solvent | methanol | 40 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 25 ml | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | tert-butyl 3(R)-[5-tert-butoxycarbonylamino-1(S)-carboxypentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.37 g | C(C)(C)(C)OC(=O)NCCCC[C@@H](C(=O)O)N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C26H39N3O7S
